US08865701B2
Step 2: Ethyl 1′-benzyl-3,4-dihydro-2H-spiro[naphthalene-1,3′-pyrrolidine]-4′-carboxylate
N-benzyl-N-(methoxymethyl)-N-trimethylsilylmethylamine (2.112 ml, 8.26 mmol) and ethyl(2E)-3,4-dihydronaphthalen-1(2H)-ylideneacetate (1.785 g, 8.26 mmol) in CH2Cl2 (33.3 ml) at 0° C. was added TFA (0.064 ml, 0.826 mmol) dropwise. Removed the ice bath and stirred at room temperature for 4 hours. Dilute with CH2Cl2 and wash twice with saturated NaHCO3. The organics were dried over sodium sulfate, concentrated, and purified on silica gel 20% EtOAc/Hex.

reactant | N-benzyl-N-(methoxymethyl)-N-trimethylsilylmethylamine | 8.26 mmol, 2.112 ml | C(C1=CC=CC=C1)N(C[Si](C)(C)C)COC | C13H23NOSi
reactant | ethyl(2E)-3,4-dihydronaphthalen-1(2H)-ylideneacetate | 8.26 mmol, 1.785 g | C/1(\CCCC2=CC=CC=C12)=C\C(=O)OCC | C14H16O2
reactant | TFA | 0.826 mmol, 0.064 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 33.3 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 1′-benzyl-3,4-dihydro-2H-spiro[naphthalene-1,3′-pyrrolidine]-4′-carboxylate | C(C1=CC=CC=C1)N1CC2(C(C1)C(=O)OCC)CCCC1=CC=CC=C12 | C23H27NO2
